US08241763B2
c) 7,7-Dimethyl-9-phenyl-7H-benzo[c]fluorene
Procedure analogous to Example 1c). Instead of 97 g (256 mmol) of 2-[1-(9,9-dimethyl-9H-fluoren-2-yl)naphthalen-2-yl]propan-2-ol, 35.0 g (103 mmol) of 2-[1-biphenyl-4-ylnaphthalen-2-yl]propan-2-ol are employed, the molar amount of the other reagents is adapted correspondingly. Yield: 26.5 g (80%) of colourless crystals.

reactant | 2-[1-(9,9-dimethyl-9H-fluoren-2-yl)naphthalen-2-yl]propan-2-ol | 256 mmol, 97 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1=C(C=CC2=CC=CC=C12)C(C)(C)O)C | C28H26O
reactant | 2-[1-biphenyl-4-ylnaphthalen-2-yl]propan-2-ol | 103 mmol, 35.0 g | C1(=CC=C(C=C1)C1=C(C=CC2=CC=CC=C12)C(C)(C)O)C1=CC=CC=C1 | C25H22O
product | 7,7-Dimethyl-9-phenyl-7H-benzo[c]fluorene | CC1(C=2C=C(C=CC2C=2C3=C(C=CC12)C=CC=C3)C3=CC=CC=C3)C | C25H20
